US03973038
4-Amino-2,6-dichlorophenol (16 g.) was put into solution in N,N-dimethylaniline (15 ml.) and acetone (200 ml.), to which the acetone solution of 4-methyl-2-acetoxybenzoyl chloride was added dropwise. After reaction for several hours, by condensing and then acidifying the solution with 4 N hydrochloric acid a precipitate was obtained, which was redissolved in 2 N sodium hydroxide solution. The solution was made acidic with dilute hydrochloric acid, thereby precipitating the product which was recrystallized from aqueous acetone to give white crystals (20.3 g.) of 3',5'-dichloro-2,4'-dihydroxy-4-methylbenzanilide. Yield: 72.5%. The melting point was 246°-247° C.

reactant | 4-Amino-2,6-dichlorophenol | 16 g | NC1=CC(=C(C(=C1)Cl)O)Cl | C6H5Cl2NO
reactant | 4-methyl-2-acetoxybenzoyl chloride | CC1=CC(=C(C(=O)Cl)C=C1)OC(C)=O | C10H9ClO3
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | N,N-dimethylaniline | 15 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | sodium hydroxide | 2 N | [OH-].[Na+]
product | 3',5'-dichloro-2,4'-dihydroxy-4-methylbenzanilide | 20.3 g, Yield: 72.5% | ClC=1C=C(NC(C2=C(C=C(C=C2)C)O)=O)C=C(C1O)Cl | C14H11Cl2NO3
